US07652015B2
Treat a slurry of 2-chloro-3-methyl-5-nitro-pyridine (27.00 g, 0.156 mol) and piperazine-1-carboxylic acid tert-butyl ester (32.03 g, 0.172 mol) in anhydrous DMF (270 mL) with K2CO3 (34.55 g, 0.250 mol), then heat the reaction mixture at 80° C. under N2 overnight. Pour the resulting reaction mixture into 1/1 EtOAc/H2O (3,000 mL), separate the layers, then extract the aqueous layer with EtOAc (1,000 mL). Wash the combined organics with saturated aq. sodium chloride (3×1,000 mL each), dry over MgSO4, filter, then concentrate under reduced pressure to give a yellow solid. Slurry the yellow solid in hexanes/EtOAc, then recover the resulting solid by vacuum filtration. Wash with hexanes and vacuum filter to give (42.84 g) of 4-(3-methyl-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid. Concentrate the filtrate under reduced pressure to give a yellow solid. Slurry the yellow solid in hexanes, then recover the resulting solid by vacuum filtration, washing with hexane and drying under vacuum filtration to give an additional (5.38 g) of 4-(3-methyl-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester compound as a yellow solid (48.22 g, 95.9% yield). 1H NMR (400 MHz, CDCl3) δ 8.96 (d, 1H), 8.14 (d, 1H), 3.57 (m, 4H), 3.41 (m, 4H), 2.36 (s, 3H), 1.48 (s, 9H); TOF-MS [ES+, M+H] Obs. m/z 323.1723, Calc. m/z 323.1719; Anal. Calcd. For C15H22N4O4: C, 55.88; H, 6.87; N, 17.37. Found C, 55.94; H, 6.87; N, 17.14.

reactant | 2-chloro-3-methyl-5-nitro-pyridine | 0.156 mol, 27.00 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.172 mol, 32.03 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | K2CO3 | 0.250 mol, 34.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc H2O | 3,000 mL | CCOC(=O)C.O
solvent | DMF | 270 mL | CN(C)C=O | C3H7NO
product | 4-(3-methyl-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 42.84 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1C)[N+](=O)[O-] | C15H22N4O4
